US08895776B2
Step A: Preparation of 2-Fluoro-3-methoxy-N-phenylaniline
In a reaction vial were placed aniline (0.200 g. 2.182 mmol); 2-fluoro-1-iodo-3-methoxybenzene (0.500 g., 1.984 mmol), Pd2(dba)3 (0.091 g. 0.099 mmol), BINAP (0.185 g, 0.298 mmol), NaOtBu (0.286 g. 2.98 mmol), and toluene (3 mL). The reaction was stirred at 80° C. overnight and quenched with water. The organic layer was separated and concentrated. The residue was purified by flash column chromatography to provide the title compound as a brown oil (0.313 g). LCMS m/z=218.4 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 3.82 (s, 3H), 6.73 (ddd, J=10.93, 8.15, 1.64 Hz, 1H), 6.88-7.05 (m, 3H), 7.15 (d, J=7.33 Hz, 2H), 7.25-7.31 (m, 2H), 7.80 (s, 1H).

reactant | aniline | 2.182 mmol, 0.200 g | NC1=CC=CC=C1 | C6H7N
reactant | 2-fluoro-1-iodo-3-methoxybenzene | 1.984 mmol, 0.500 g | FC1=C(C=CC=C1OC)I | C7H6FIO
reactant | BINAP | 0.298 mmol, 0.185 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 2.98 mmol, 0.286 g | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.099 mmol, 0.091 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Fluoro-3-methoxy-N-phenylaniline | 0.313 g | FC1=C(NC2=CC=CC=C2)C=CC=C1OC | C13H12FNO
